US06277859B1
N-Acetylbenzylamine
10 g of benzylamine was dissolved in 200 ml of methylene chloride followed by the addition of 26 ml of triethylamine and dropwise addition of 7.3 ml of acetyl chloride at 0° C. After stirring for 1 hour at room temperature, 2 ml of methanol was added to the reaction system at 0° C. followed by 120 ml of water and separation of the phases. The aqueous layer was extracted with 100 ml of chloroform, and the resulting organic layer was concentrated after drying with anhydrous sodium sulfate to obtain 8.55 g of the target compound (yield: 61%).

reactant | benzylamine | 10 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 26 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 7.3 ml | C(C)(=O)Cl | C2H3ClO
reactant | methanol | 2 ml | CO | CH4O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-Acetylbenzylamine | 8.55 g, yield: 61% | C(C)(=O)NCC1=CC=CC=C1 | C9H11NO
